US08003649B2
Isopropylmagnesium chloride-lithium chloride complex (1.0M in THF) (5.31 mL, 5.31 mmol) was added dropwise to 3-bromo-5-(trifluoromethyl)pyridine (1.20 g, 5.31 mmol) in THF (10 mL) cooled to 0° C. over a period of 10 minutes. The resulting solution was stirred at 0° C. for 1 hour then benzyl 4-oxo-1-piperidinecarboxylate (1.24 g, 5.31 mmol) in THF (5 mL) was added dropwise. The mixture was allowed to warm slowly to room temperature and stirred for a further 1 hour before quenching with aqueous ammonium chloride (25 mL). The mixture was then extracted with tert butyl methyl ether. The extract was washed with water followed by saturated brine, dried over MgSO4, concentrated by evaporation then purified by flash silica chromatography, elution gradient 20 to 50% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford benzyl 4-hydroxy-4-[5-(trifluoromethyl)pyridin-3-yl]piperidine-1-carboxylate (1.32 g, 65%) as a pale yellow oil.

reactant | Isopropylmagnesium chloride lithium chloride | 5.31 mmol, 1.0M, 5.31 mL | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | 3-bromo-5-(trifluoromethyl)pyridine | 5.31 mmol, 1.20 g | BrC=1C=NC=C(C1)C(F)(F)F | C6H3BrF3N
reactant | benzyl 4-oxo-1-piperidinecarboxylate | 5.31 mmol, 1.24 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | benzyl 4-hydroxy-4-[5-(trifluoromethyl)pyridin-3-yl]piperidine-1-carboxylate | 1.32 g, 65% | OC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C=1C=NC=C(C1)C(F)(F)F | C19H19F3N2O3
